US09062092B2
Compound 45c. 2-(1-Trifluoromethanesulfonyloxy-ethyl)-morpholine-2,4-dicarboxylic acid 4-tert-butyl ester 2-methyl ester
A cooled (−78° C.) suspension of sodium hydride (262 mg, 6.542 mmol, 60% in mineral oil) in anhydrous tetrahydrofuran (10 mL) was treated with a solution of 2-(1-hydroxy-ethyl)-morpholine-2,4-dicarboxylic acid 4-tert-butyl ester 2-methyl ester (1.262 g, 4.361 mmol) in anhydrous tetrahydrofuran (10 mL). The light yellow suspension was stirred at −78° C. for 15 minutes and then treated with a solution of N-(5-chloro-2-pyridyl)bis(trifluoromethanesulfonimide) (3.425 g, 8.722 mmol) in anhydrous tetrahydrofuran (10 mL). After stirring at room temperature for 1.5 h, the reaction was quenched with a saturated solution of ammonium chloride. The aqueous layer was extracted with dichloromethane (2×). The organics were combined, filtered through a phase separator and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 50 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 4:1 to afford the title compound (1.384 g, 75%) as a light yellow oil and as a 2:1 mixture of diastereoisomers.

reactant | sodium hydride | 6.542 mmol, 262 mg | [H-].[Na+]
reactant | 2-(1-hydroxy-ethyl)-morpholine-2,4-dicarboxylic acid 4-tert-butyl ester 2-methyl ester | 4.361 mmol, 1.262 g | COC(=O)C1(CN(CCO1)C(=O)OC(C)(C)C)C(C)O | C13H23NO6
reactant | N-(5-chloro-2-pyridyl)bis(trifluoromethanesulfonimide) | 8.722 mmol, 3.425 g | C1=CC(=NC=C1Cl)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C7H3ClF6N2O4S2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(1-Trifluoromethanesulfonyloxy-ethyl)-morpholine-2,4-dicarboxylic acid 4-tert-butyl ester 2-methyl ester | 1.384 g, 75% | COC(=O)C1(CN(CCO1)C(=O)OC(C)(C)C)C(C)OS(=O)(=O)C(F)(F)F | C14H22F3NO8S
